US09085555B2
B. Tert-butyl 2-(3-iodo-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate
To a suspension of 3-iodo-5-methyl-1H-pyrazolo[3,4-c]pyridine (1.00 g, 3.86 mmol), and potassium carbonate (1.28 g, 9.26 mmol) in acetonitrile (40 mL) was added tert-butyl bromoacetate (0.685 mL, 4.63 mmol) dropwise at RT and the resulting mixture was heated to reflux for 16 h. The mixture was cooled to RT and filtered, the solid was washed with acetonitrile and the filtrate was concentrated under vacuum. The residual oil was used directly in the next step without further purification. MS (LC/MS): 374.0 [M+H]+; tR (HPLC conditions k): 2.96 min.

reactant | 3-iodo-5-methyl-1H-pyrazolo[3,4-c]pyridine | 3.86 mmol, 1.00 g | IC1=NNC2=CN=C(C=C21)C | C7H6IN3
reactant | potassium carbonate | 9.26 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 4.63 mmol, 0.685 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | Tert-butyl 2-(3-iodo-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | IC1=NN(C2=CN=C(C=C21)C)CC(=O)OC(C)(C)C | C13H16IN3O2
